US04248883
3-Propanoylthio-2-methylpropanoyl chloride
A mixture of 3-propanoylthio-2-methylpropanoic acid (19.7 g) and thionyl chloride (16 g) was stirred at room temperature overnight. The reaction mixture was distilled under reduced pressure to give the title compound, b.p. 135°-137° C. (35 mmHg).

reactant | 3-propanoylthio-2-methylpropanoic acid | 19.7 g | C(CC)(=O)SCC(C(=O)O)C | C7H12O3S
reactant | thionyl chloride | 16 g | S(=O)(Cl)Cl | Cl2OS
product | 3-Propanoylthio-2-methylpropanoyl chloride | C(CC)(=O)SCC(C(=O)Cl)C | C7H11ClO2S
